US07544803B2
2′-Formyl-biphenyl-4-carboxylic acid quinolin-7-ylamide.
This material was prepared analogous to the procedure described for Example 1(a). 4-Bromo-N-quinolin-7-yl-benzamide, Example 27, (327 mg, 1 mmol) reacted with 2-formylphenyl boronic acid (183 mg, 1.1 mmol, Aldrich) to give the title compound as a yellow solid. Mp 258-260° C. MS (ESI, pos. ion) nz/z: 353 (M+1).

reactant | 4-Bromo-N-quinolin-7-yl-benzamide | BrC1=CC=C(C(=O)NC2=CC=C3C=CC=NC3=C2)C=C1 | C16H11BrN2O
reactant | 2-formylphenyl boronic acid | 1.1 mmol, 183 mg | C(=O)C1=C(C=CC=C1)B(O)O | C7H7BO3
product | 2′-Formyl-biphenyl-4-carboxylic acid quinolin-7-ylamide | N1=CC=CC2=CC=C(C=C12)NC(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)C=O | C23H16N2O2
